US09085576B2
Synthesis of (1S,5R,6S)-5-(5-(6-chlorobenzo[d]oxazol-2-yl)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine
A sealable vial was charged with methyl 3-((1S,5R,6S)-3-benzamido-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorobenzoate (0.100 g, 0.24 mmol), 2-amino-5-chlorophenol (0.086 g, 0.60 mmol) and polyphosphoric acid (0.50 mL). The reaction mixture was purged with nitrogen for 1 min and then heated to 170° C. for 1 h. The reaction mixture was allowed to cool to rt, neutralized with aqueous, saturated Na2CO3 solution and 1 N NaOH. The mixture was extracted three times with a solvent mixture of CHCl3:i-PrOH (3:1). The combined organic extracts were dried over Na2SO4, and concentrated in vacuo. The crude was purified first by silica gel chromatography 0-100% EtOAc-hexane. The collected fractions were further purified by reverse-phase preparative HPLC using a Phenomenex Gemini column, 10 micron, C18, 100 Å, 150×30 mm, 0.1% TFA in CH3CN/H2O, gradient 10% to 100% over 16 min. The fractions containing the desired product were combined and neutralized with solid Na2CO3. The aqueous phase was extracted with DCM and dried over Na2SO4. The filtrate was concentrated in vacuo to obtain the title compound as a beige solid (10.5 mg, 11% yield). MS m/z=408 [M+H]+. Calculated for C19H13ClF3N3O2: 407.8.

reactant | methyl 3-((1S,5R,6S)-3-benzamido-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorobenzoate | 0.24 mmol, 0.100 g | C(C1=CC=CC=C1)(=O)NC=1O[C@H]2C[C@H]2[C@](N1)(C(F)F)C=1C=C(C(=O)OC)C=CC1F | C21H17F3N2O4
reactant | 2-amino-5-chlorophenol | 0.60 mmol, 0.086 g | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
product | (1S,5R,6S)-5-(5-(6-chlorobenzo[d]oxazol-2-yl)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 10.5 mg, 11% yield | ClC1=CC2=C(N=C(O2)C=2C=CC(=C(C2)[C@@]2(N=C(O[C@H]3C[C@@H]23)N)C(F)F)F)C=C1 | C19H13ClF3N3O2
